* C:\ITBA\10 Cuatrimestre\Electrónica de Potencia\Trabajos Practicos\potencia\TP1\simulaciones\ej2.asc
V§source N001 0 9
L1 N001 N002 220µ
C1 N002 N003 182µ
R1 N002 N003 7.4
V§pwm P001 0 PULSE(0 9 0 0 0 8.2u 20u 0)
S1 N003 0 P001 0 MYSW
D2 N003 N001 MUR460
.model D D
.lib C:\Users\Tomas\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.009 0 10n
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.backanno
.end
